US05001160
2-Hydroxy-2-phenyl-1-piperidino-3-butanone (2.47 g, 10 mmole) is added to 50 mL of dry tetrahydrofuran (THF). The solution is stirred and a solution of pyrrolidone hydrotribromide (5 g, 10 mmole) in 100 mL of dry. THF is added dropwise over a period of 2 hours. After being refluxed for 4 hours, the reaction mixture is allowed to cool. Ether is added and the solution washed twice with water and dried over magnesium sulfate. The solvent is removed under reduced pressure and the product purified by flash column chromatography to give 4-bromo-2-hydroxy-2-phenyl 1-piperidino-3-butanone.

reactant | 2-Hydroxy-2-phenyl-1-piperidino-3-butanone | 10 mmole, 2.47 g | OC(CN1CCCCC1)(C(C)=O)C1=CC=CC=C1 | C15H21NO2
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | pyrrolidone hydrotribromide | 10 mmole, 5 g | C1CC(=O)NC1.Br[Br-]Br
solvent | Ether | CCOCC | C4H10O
product | 4-bromo-2-hydroxy-2-phenyl 1-piperidino-3-butanone | BrCC(C(CN1CCCCC1)(C1=CC=CC=C1)O)=O | C15H20BrNO2
